US04677210
3-Amino-1-(3-benzyloxyphenyl)-2-pyrazoline
To an ethanolic sodium ethoxide solution (prepared from 0.29 g of sodium and 20 mL of ethanol) was added 2 g of 3-benzyloxyphenylhydrazine hydrochloride and 0.51 g of acrylonitrile. The reaction mixture was refluxed for 5 h and then cooled to room temperature. Solvent was removed in vacuo, residue washed well with water and ether to give 0.4 g of solid. Recrystallization from CH2C12 -Hexane gave 0.3 g of pure product: mp 135°-136° C.

reactant | 3-benzyloxyphenylhydrazine hydrochloride | 2 g | Cl.C(C1=CC=CC=C1)OC=1C=C(C=CC1)NN
reactant | acrylonitrile | 0.51 g | C(C=C)#N | C3H3N
solvent | sodium ethoxide | 20 mL, 0.29 g | [O-]CC.[Na+]
product | 3-Amino-1-(3-benzyloxyphenyl)-2-pyrazoline | 0.4 g | NC1=NN(CC1)C1=CC(=CC=C1)OCC1=CC=CC=C1 | C16H17N3O
